US05318966
A suspension of 24.1 g (0.12 mol) of rac-cis-2,3,3a,4,5,9b-hexahydro-6-methoxy-1H-benzo[e]indole, 28.3 g (0.15 mol) of 2-cyclohexylethyl bromide, 26.3 g (0.19 mol) of potassium carbonate and 6.22 g (0.04 mol) of sodium iodide in 550 ml of ethyl methyl ketone was boiled at reflux for 3 days. The solid was filtered off and the solvent was distilled in a vacuum. The residue was dissolved in ethyl acetate, whereupon the solution was washed with water and sodium chloride solution and concentrated. After chromatography over silica gel (ethyl acetate-methylene chloride 1:2) there were obtained 16.1 g (43%) of rac-cis-3-(2-cyclohexylethyl)-2,3,3a,4,5,9b-hexahydro-6-methoxy-1H-benz[e]indole as a beige oil. MS: m/e (% basis peak): 313 (M+,11), 217 (21), 216 (100), 108 (13), 44 (13).

reactant | rac-cis-2,3,3a,4,5,9b-hexahydro-6-methoxy-1H-benzo[e]indole | 0.12 mol, 24.1 g | COC1=CC=CC=2[C@H]3CCN[C@H]3CCC21 | C13H17NO
reactant | 2-cyclohexylethyl bromide | 0.15 mol, 28.3 g | C1(CCCCC1)CCBr | C8H15Br
reactant | potassium carbonate | 0.19 mol, 26.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.04 mol, 6.22 g | [I-].[Na+]
solvent | ethyl methyl ketone | 550 ml | CC(=O)CC | C4H8O
product | rac-cis-3-(2-cyclohexylethyl)-2,3,3a,4,5,9b-hexahydro-6-methoxy-1H-benz[e]indole | 16.1 g, 43% | C1(CCCCC1)CCN1CC[C@@H]2C3=C(CC[C@H]12)C(=CC=C3)OC | C21H31NO
